US04604389
(a) N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-methyl-benzylamine
First 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane (60 g, 0.2 mol) is heated to 130° C. with N-methyl-benzylamine (65 g, 0.54 mol) for 1.5 hours. After cooling the mixture is distributed between water and methylene chloride. The organic phase is separated off, dried and evaporated. The residue is purified by chromatography on silica gel (eluant: methylene chloride/methanol=10:1). M.p. of the hydrochloride: 205°-208° C.

reactant | 3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-1-chloropropane | 0.2 mol, 60 g | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-benzylamine | 0.54 mol, 65 g | CNCC1=CC=CC=C1 | C8H11N
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-methyl-benzylamine | COC1=CC2=C(CC(N(CC2)CCCN(C)CC2=CC=CC=C2)=O)C=C1OC | C23H30N2O3
